US04472433
A mixture of 2-oxo-4-phenoxy-7-chloroindoline (4.2 g) and sodium hydroxide (1.3 g) in water (40 ml) and dioxane (10 ml) was refluxed for 24 hrs. After cooling, the reaction mixture was filtered, and the filtrate was evaporated in vacuo. The residue was dissolved in ethanol under heating, and the solution was filtered. The filtrate was allowed to stand under ice-cooling, and the precipitating crystals were collected by filtration, washed with ethanol and dried to give sodium 2-(2-amino-3-chloro-6-phenoxyphenyl)acetate (1.8 g). The same product (2.3 g) was obtained from the mother liquid. Total yield 4.1 g. mp>240° C.

reactant | 2-oxo-4-phenoxy-7-chloroindoline | 4.2 g | O=C1NC2=C(C=CC(=C2C1)OC1=CC=CC=C1)Cl | C14H10ClNO2
reactant | sodium hydroxide | 1.3 g | [OH-].[Na+]
solvent | water | 40 ml | O | H2O
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | sodium 2-(2-amino-3-chloro-6-phenoxyphenyl)acetate | 1.8 g | NC1=C(C(=CC=C1Cl)OC1=CC=CC=C1)CC(=O)[O-].[Na+] | InChI=1S/C14H12ClNO3.Na/c15-11-6-7-12(10(14(11)16)8-13(17)18)19-9-4-2-1-3-5-9;/h1-7H,8,16H2,(H,17,18);/q;+1/p-1
